US07939526B2
A mixture of the 1-{[(3-nitroquinolin-4-yl)amino]methyl}cyclohexanol prepared above (87% purity, 7.00 g, 20.3 mmol) and 5% platinum on carbon (0.60 g) in toluene (160 mL) and ethanol (20 mL) was hydrogenated at 20-30 psi (1.4×105 to 2.1×105 Pa) on a Parr apparatus for 2 hours. The mixture was filtered through CELITE filter agent, which was rinsed with toluene. The filtrate was concentrated to an oil and the oil was concentrated twice from toluene. To the oil was added CH2Cl2 (200 mL). The resulting solution was cooled in an ice bath and triethylamine (3.11 mL, 22.3 mmol) was added followed by dropwise addition of ethoxyacetyl chloride (88% purity, 2.96 g, 21.3 mmol). The solution was allowed to warm to room temperature and stir for 1 hour, during which time a precipitate formed. The reaction mixture was concentrated to a yellow foam to which ethanol (200 mL) and triethylamine (11 mL) were added. The resulting solution was heated at reflux for 13 hours. The solution was concentrated to a yellow solid, which was dissolved in CH2Cl2 (150 mL) and washed with water (50 mL) and brine (75 mL). The organic layer was dried over MgSO4, filtered, and concentrated to a solid that was crystallized from CHCl3/CH2Cl2 to yield 1.94 g of 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol as pale orange crystals after drying.

reactant | 1-{[(3-nitroquinolin-4-yl)amino]methyl}cyclohexanol | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC1(CCCCC1)O | C16H19N3O3
reactant | triethylamine | 22.3 mmol, 3.11 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 21.3 mmol, 2.96 g | C(C)OCC(=O)Cl | C4H7ClO2
catalyst | platinum on carbon | 0.60 g | [Pt] | Pt
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol | 1.94 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)O | C20H25N3O2
